US07846925B2
Step VI: Methyl-[6-(Formyl)-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl]acetate
A mixture of PCC (4.2 g, 0.019 mol) and celite (4 g) in dry CH2Cl2 (100 mL) was cooled to 0° C. and slowly added a solution of methyl-[6-(hydroxymethyl)-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl]acetate (1.2 g, 0.0048 mol) in CH2Cl2 (30 mL) under N2. The reaction mixture was stirred at RT for 2 h, passed through celite, washed with CH2Cl2 (50 mL) and concentrated to give crude product, which was purified on silica gel affording 1.05 g (87%).

reactant | PCC | 0.019 mol, 4.2 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | methyl-[6-(hydroxymethyl)-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl]acetate | 0.0048 mol, 1.2 g | COC(CN1C(COC2=C1C=C(C=C2)CO)=O)=O | C12H13NO5
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | Methyl-[6-(Formyl)-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl]acetate | COC(CN1C(COC2=C1C=C(C=C2)C=O)=O)=O | C12H11NO5
